US08222263B2
A stirred mixture of N-(2-methyl-5-nitrophenyl)-4-[(4-phenylquinazolin-2-yl)amino]benzamide (500 mg, 1.05 mmol), formic acid (140 μL, 3.71 mmol), potassium formate (312 mg, 3.71 mmol) and 5% platinum on carbon (150 mg, catalytic) in tetrahydrofuran (10 mL) and ethanol (10 mL) was heated to reflux for 1 h. The mixture was filtered while hot through Celite and washed with hot ethanol. Water was added until the mixture became cloudy, then the volatile solvents were removed on a rotary evaporator. The solid was collected by filtration to give N-(5-amino-2-methylphenyl)-4-[(4-phenylquinazolin-2-yl)amino]benzamide (397 mg, 85%). 1H NMR (400 MHz, DMSO-d6): δ 10.20 (s, 1H), 9.46 (s, 1H), 8.15 (d, 2H), 7.97 (d, 2H), 7.84 (m, 5H), 7.65 (m, 3H), 7.42 (m, 1H), 6.89 (d, 1H), 6.65 (d, 1H), 6.39 (dd, 1H), 2.08 (s, 3H). MS (EI) for C28H23N5O: 446.1 (MH+).

reactant | N-(2-methyl-5-nitrophenyl)-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 1.05 mmol, 500 mg | CC1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O | C28H21N5O3
reactant | formic acid | 3.71 mmol, 140 μL | C(=O)O | CH2O2
reactant | potassium formate | 3.71 mmol, 312 mg | C(=O)[O-].[K+]
catalyst | platinum on carbon | 150 mg | [Pt] | Pt
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-(5-amino-2-methylphenyl)-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 397 mg, 85% | NC=1C=CC(=C(C1)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O)C | C28H23N5O
